US06949542B2
7-Methoxy-4-(3-pyridin-3-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {5-methoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester (Example M51) (229 mg, 0.50 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (159 mg).

reactant | {5-methoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | 0.50 mmol, 229 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C26H27N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Methoxy-4-(3-pyridin-3-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | COC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC=CC2)=O)C=C1 | C21H17N3O2
